US07202364B2
A mixture of N-(6-chloro-2-naphthyl)carbamic acid ethyl ester (725 mg, 2.90 mmol), N-chlorosuccinimide (387 mg, 2.90 mmol) and 1 M HCl in acetic acid (2.90 mL, 2.90 mmol) in acetic acid (20 mL) is heated at 50° C. under N2 atmosphere for 1 hour. After cooling to room temperature, water (10 mL) is added and extracted with EtOAc. The organic layer is washed with brine, dried (Na2SO4) and concentrated by rotary evaporator to give N-(1,6-dichloro-2-naphthyl)carbamic acid ethyl ester as a yellow solid.

reactant | N-(6-chloro-2-naphthyl)carbamic acid ethyl ester | 2.90 mmol, 725 mg | C(C)OC(NC1=CC2=CC=C(C=C2C=C1)Cl)=O | C13H12ClNO2
reactant | N-chlorosuccinimide | 2.90 mmol, 387 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | HCl | 1 M | Cl | ClH
reactant | water | 10 mL | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2.90 mmol, 2.90 mL | C(C)(=O)O | C2H4O2
product | N-(1,6-dichloro-2-naphthyl)carbamic acid ethyl ester | C(C)OC(NC1=C(C2=CC=C(C=C2C=C1)Cl)Cl)=O | C13H11Cl2NO2
